US07956195B2
To a round bottom flask charged with ammonium carbonate (268 g, 2.79 mol) and potassium cyanide (44.4 g, 0.681 mol) was added water (1500 mL, 82 mol). The mixture was heated at 80° C. and a solution of (S)-3-(4-bromo-phenyl)-cyclopentanone (148.09 g, 0.62 mol) in ethanol (1500 mL, 25 mol) was added. The reaction mixture was heated to reflux overnight. The reaction mixture was cooled to room temperature. The crude reaction mixture was filtered and washed with water. The solid was triturated with ether (1.5 L), filtered, washed with ether and dried under vacuum to yield (S)-7-(4-bromo-phenyl)-1,3-diaza-spiro[4.4]nonane-2,4-dione (181.29 g, 95%) as a 1:1 mixture of diastereomers.

reactant | ammonium carbonate | 2.79 mol, 268 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 0.681 mol, 44.4 g | [C-]#N.[K+]
reactant | water | 82 mol, 1500 mL | O | H2O
reactant | (S)-3-(4-bromo-phenyl)-cyclopentanone | 0.62 mol, 148.09 g | BrC1=CC=C(C=C1)[C@@H]1CC(CC1)=O | C11H11BrO
reactant | ethanol | 25 mol, 1500 mL | C(C)O | C2H6O
product | (S)-7-(4-bromo-phenyl)-1,3-diaza-spiro[4.4]nonane-2,4-dione | 181.29 g, 95% | BrC1=CC=C(C=C1)C1C[C@]2(C(NC(N2)=O)=O)CC1 | C13H13BrN2O2
